### PR TITLE
[Merged by Bors] - feat: port Analysis.Normed.Group.SemiNormedGroup.Completion

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/SemiNormedGroupCat/Completion.lean [hunk 1]
```diff
@@ -76,30 +77,43 @@ theorem completion.map_normNoninc {V W : SemiNormedGroupCat} {f : V ⟶ W} (hf :
...
 
+variable (V W : SemiNormedGroupCat)
+
 /-- Given a normed group hom `V ⟶ W`, this defines the associated morphism
 from the completion of `V` to the completion of `W`.
 The difference from the definition obtained from the functoriality of completion is in that the
 map sending a morphism `f` to the associated morphism of completions is itself additive. -/
 def completion.mapHom (V W : SemiNormedGroupCat.{u}) :
+    -- Porting note: cannot see instances through concrete cats
+    have (V W : SemiNormedGroupCat.{u}) : AddGroup (V ⟶  W) := inferInstanceAs <| AddGroup
```
Comment (jcommelin) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroupCat/Completion.lean:88]:
```suggestion
    have (V W : SemiNormedGroupCat.{u}) : AddGroup (V ⟶ W) := inferInstanceAs <| AddGroup
```

File: Mathlib/Analysis/Normed/Group/SemiNormedGroupCat/Completion.lean [hunk 2]
```diff
@@ -76,30 +77,43 @@ theorem completion.map_normNoninc {V W : SemiNormedGroupCat} {f : V ⟶ W} (hf :
...
+    -- Porting note: failing simps probably due to instance synthesis issues with concrete
+    -- cats; see the gymnastics below for what used to be
+    -- simp only [add_apply, comp_apply. map_add]
+    rw [NormedAddGroupHom.add_apply, CategoryTheory.comp_apply, CategoryTheory.comp_apply,
+      CategoryTheory.comp_apply, @NormedAddGroupHom.add_apply _ _ (_) (_)]
+    convert map_add g (f x) (f' x)
   comp_add := by
     intros; ext
-    simp only [NormedAddGroupHom.add_apply, CategoryTheory.comp_apply, map_add]
+    rw [NormedAddGroupHom.add_apply, CategoryTheory.comp_apply, CategoryTheory.comp_apply,
```
Comment (jcommelin) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroupCat/Completion.lean:112]:
```suggestion
    -- Porting note: failing simps probably due to instance synthesis issues with concrete
    -- cats; see the gymnastics below for what used to be
    -- simp only [add_apply, comp_apply. map_add]
    rw [NormedAddGroupHom.add_apply, CategoryTheory.comp_apply, CategoryTheory.comp_apply,
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
